Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine sulfate / Demerol / Nsaids / Prozac
 
Attending: ___.
 
Chief Complaint:
hand pain
 
Major Surgical or Invasive Procedure:
I+D right ___ finger

 
History of Present Illness:
Ms. ___ is a ___ homeless F with PMHx of
psoriasis, tobacco dependence and OUD on methadone who p/w 3 
days
of R finger blister and fever. 

Pt reports about 10 d prior to presentation she noticed a cut on
the knuckle of her R index finger. It became slightly swollen 
and
red. About 3 days prior to presentation she noticed a small
pimple on palmar, lateral aspect of R index finger. This
increased in size over the last 3 days and became a fluid filled
blister. Reports some surrounding erythema and difficulty moving
her finger ___ to the swelling. Also reports fevers of ___ d,
tmax 102.4 at home. She denies any other systemic symptoms of
chills, n/v, cough, SOB, CP, palpitations. Denies any IVDU.

Patient presented to ___ ___ evening for her 
symptoms
where T max 100.8. Labs notable for CRP 6.5, ESR 31. Blister was
aspirated with cultures showing S pyogenes. Xray w/o evidence of
osteomyelitis. BCx pending. Patient was given one dose of
vancomycin and was transferred for hand surgery evaluation.

In our ED, she was evaluated by hand surgery team. Motor and
sensation intact. Initially had no operative need, however,
swelling and blister size progressed while in ED and hand 
surgery
team took her to OR for I&D: performed washout of flexor sheath
and debridement of blister, underlying eschar and debridement of
R middle finger wound. Pt tolerated procedure without
complication. Cultures taken , no purulence noted.

ROS: 10 point review of systems is otherwise negative except as
listed above

 
Past Medical History:
GERD
Migraines
Asthma
Psoriasis not on meds
OUD on methadone
 
Social History:
___
Family History:
Notable for diabetes in father and brain tumor in maternal
grandmother 
 
Physical ___:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: alert, awake, NAD. 
EYES: Anicteric, PERRL
ENT: Ears and nose without visible erythema, masses, or trauma.
NC in place. MMM
CV: RRR, no m/r/g.  No JVD.
RESP: no increased wob, lungs with crackles at bl bases,
otherwise clear
GI: +BS, abd soft, ND. no tenderness to palpation 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. +clubbing of UEs. RUE
wrapped
SKIN: L palm and visible R palm surrounding dressing without any
other lesions or rash. psoriasis rash on L knee
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 06:30AM BLOOD WBC-5.6 RBC-3.71* Hgb-11.3 Hct-34.5 
MCV-93 MCH-30.5 MCHC-32.8 RDW-13.4 RDWSD-45.6 Plt ___
___ 06:00AM BLOOD Glucose-106* UreaN-12 Creat-0.7 Na-144 
K-3.5 Cl-104 HCO3-29 AnGap-11
___ 06:10AM BLOOD proBNP-498*
___ 06:00AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.1
___ 06:10AM BLOOD %HbA1c-5.5 eAG-111
___ 06:10AM BLOOD HIV Ab-NEG

IMPRESSION: 
  
  
1. No acute fracture or dislocation. 
2. Similar appearing soft tissue swelling around the middle 
phalanx of the 
right index finger.  No osseous destruction or cortical lucency 
to indicate 
osteomyelitis. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo homeless F with psoriasis, tobacco 
dependence and OUD on methadone who presented with 3 days of R 
finger blister and fever consistent with finger cellulitis s/p 
debridement and I+D.

# R hand blister/cellulitis ___ S pyogenes:
# s/p R finger I&D, washout:
Diagnosis based on fever in the presence of development of 
finger blister and erythema after recent cut.  ___ cx with 
strep pyogenes.  Now s/p I&D and washout of blister, flexor 
sheath with cx demonstrating strep.  She improved with CTX and 
was transitioned to Keflex on DC for a 10 day course post I+D.  
She had betadine soaks and elevated hand.  HIV was neg.  She was 
discharged to follow up with hand surgery in 1 week.

# Acute Hypoxemic Respiratory Failure:
Pt with hypoxemia - requiring 3L, though this was post operative 
after OR medications. Pt denies any cough, SOB, chest pain. CXR 
with bilateral atelectasis and possible fluid in fissures. No 
prior dx of heart failure and appears euvolemic on exam 
otherwise (no JVP, no ___ edema). Does have significant smoking 
hx with 40 PY and clubbing on exam.  She was weaned off ___. 

# OUD in remission, on methadone
Reported home dose of 100 mg daily- goes to ___ 
on ___.  Confirmed by clinic.  Last dose letter given on ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methadone 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Cephalexin 500 mg PO QID *AST Approval Required*
through ___ 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*28 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate 
for acute finger pain.  do not use with alcohol or while driving 

RX *oxycodone 10 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*8 Tablet Refills:*0 
4.  Methadone 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ___ finger cellulitis
Opioid use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a infected finger.  Your finger infection 
was drained and you were given antibiotics.  Your finger is 
improving.  Please complete the antibiotic course given to you.  
We recommend that you find a new PCP in the ___ area.  You 
will also need to follow up with the hand surgery team in 1 
week.

- Continue dressing changes daily - xeroform single sheet
non-circumferential, then DSD
 -Keep right upper extremity well elevated above the level of 
the
heart, nonweightbearing right upper extremity with activities of
daily living as tolerated 

 
Followup Instructions:
___